US09238639B2
E) Methyl(7-fluoro-6-methoxy-4-methyl-1-benzothiophen-3-yl)acetate
MsOH (3.0 mL) was added to methyl 4-((2-fluoro-3-methoxy-5-methylphenyl)sulfanyl)-3-oxobutanoate (330 mg) at 0° C. After stirring at 0° C. for 10 min, the mixture was poured into ice water at 0° C. and extracted with EtOAc. The organic layer was separated, washed successively with saturated aqueous NaHCO3 and brine, dried over MgSO4 and concentrated in vacuo. The residue was purified by silica gel column chromatography (EtOAc/hexane) to give the title compound (299 mg).

reactant | MsOH | 3.0 mL | S(=O)(=O)(C)O | CH4O3S
reactant | methyl 4-((2-fluoro-3-methoxy-5-methylphenyl)sulfanyl)-3-oxobutanoate | 330 mg | FC1=C(C=C(C=C1OC)C)SCC(CC(=O)OC)=O | C13H15FO4S
product | Methyl(7-fluoro-6-methoxy-4-methyl-1-benzothiophen-3-yl)acetate | 299 mg | COC(CC1=CSC2=C1C(=CC(=C2F)OC)C)=O | C13H13FO3S
